US07714009B2
N2-Methylbenzene-1,2,3-triamine
To a flask was added 0.30 g (1.5 mmol) of N-methyl-2,6-dinitroaniline and 40 ml of methanol. The flask was purged with nitrogen followed by the addition of 0.03 g of 10% palladium on carbon. The flask was evacuated and pressurized to 2-3 psig hydrogen and stirred for 1 h. After completion as determined by HPLC, the reaction was filtered through GF/F filter paper. The filtrate was evaporated to give 0.2 g (95%) of product.

reactant | N-methyl-2,6-dinitroaniline | 1.5 mmol, 0.30 g | CNC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C7H7N3O4
solvent | methanol | 40 ml | CO | CH4O
product | N2-Methylbenzene-1,2,3-triamine | 0.2 g, 95% | CNC1=C(C=CC=C1N)N | C7H11N3
